US09145393B2
To a solution of benzyl (2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)carbamate (180 mg, 0.47 mmol) in EtOH (4 mL) and toluene (16 mL) was added 4-bromo-N-(4-isopropyl-3-methylphenyl)picolinamide (0.23 g, 0.70 mmol), Pd(PPh3)4 (5.4 mg, 0.046 mmol), and 2M K2CO3 in water (0.46 mL). The mixture was stirred at 100° C. overnight under nitrogen. After cooling to room temperature and evaporation of the solvent, the residue was purified by combi-flash (ISCO, 40 g silica, UV254, 3:1 pet ether/ethyl acetate) to afford benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-methoxy-[3,4′-bipyridin]-5-yl)carbamate (216 mg, 90% yield) as a yellow solid: MS (ES) m/z 511 (M+H).

reactant | benzyl (2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)carbamate | 0.47 mmol, 180 mg | COC1=NC=C(C=C1NC(OCC1=CC=CC=C1)=O)B1OC(C(O1)(C)C)(C)C | C20H25BN2O5
reactant | 4-bromo-N-(4-isopropyl-3-methylphenyl)picolinamide | 0.70 mmol, 0.23 g | BrC1=CC(=NC=C1)C(=O)NC1=CC(=C(C=C1)C(C)C)C | C16H17BrN2O
reactant | K2CO3 | 2M | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.46 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.046 mmol, 5.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-methoxy-[3,4′-bipyridin]-5-yl)carbamate | 216 mg, 90% yield | C(C)(C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC(=C1)C=1C=NC(=C(C1)NC(OCC1=CC=CC=C1)=O)OC)C | C30H30N4O4
